US05998470
a) N-benzyloxycarbonyl-L-leucinyl bromomethyl ketone
N-Cbz-L-leucine (2.10 g, 7.6 mmol) was dissolved in THF (10 mL), cooled to -40° C., and 4-methylmorpholine (0.77 g, 7.6 mmol, 0.83 mL) was added followed by dropwise addition of isobutyl chloroformate (1.04 g, 7.6 mmol, 0.98 mL). After 15 min, the solution was filtered into the previously prepared 0° C. solution of ethereal diazomethane. The resulting solution was allowed to stand at 0° C. for 23 h. HBr (30% in acetic acid) (45.2 mmol, 9 mL) was added and the resulting solution was stirred at 0° C. for 5 min, then washed sequentially with 0.1 N HCl, saturated aqueous NaHCO3 and saturated brine, then dried (MgSO4), filtered and concentrated to give the title compound as a colorless oil (2.43 g, 94%).

reactant | N-Cbz-L-leucine | 7.6 mmol, 2.10 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | 4-methylmorpholine | 7.6 mmol, 0.83 mL, 0.77 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.6 mmol, 0.98 mL, 1.04 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HBr | 45.2 mmol, 9 mL | Br | BrH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-benzyloxycarbonyl-L-leucinyl bromomethyl ketone | 2.43 g, 94% | BrCC(=O)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C16H20BrNO4
